US07071182B2
N-(4-phenoxyphenyl)-N′-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]urea
A mixture of 2-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine (0.100 g, 0.434 mmol) and 4-phenoxyphenyl isocyanate (0.0917 g, 0.434 mmol) in 6 mL of THF was stirred at 50° C. for 1 hour, cooled to room temperature and concentrated under reduced pressure. The residue was triturated in diethyl ether and collected by filtration to provide the title compound. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.63 (m, 4 H), 2.44 (m, J=6.44 Hz, 4 H), 2.86 (t, J=6.61 Hz, 2 H), 4.46 (t, J=6.78 Hz, 2 H), 6.97 (m, 4 H), 7.09 (m, 1 H), 7.35 (m, 3 H), 7.49 (m, 2 H), 7.59 (m, 1 H), 7.88 (m, 1 H), 7.96 (s, 1 H), 8.65 (m, 2 H); MS (ESI) m/z 442 [M+H]+.

reactant | 2-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | 0.434 mmol, 0.100 g | N1(CCCC1)CCN1NC2=CC=C(C=C2C1)N | C13H20N4
reactant | 4-phenoxyphenyl isocyanate | 0.434 mmol, 0.0917 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)N=C=O | C13H9NO2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-(4-phenoxyphenyl)-N′-[1-(2-pyrrolidin-1-ylethyl)-1H-indazol-5-yl]urea | O(C1=CC=CC=C1)C1=CC=C(C=C1)NC(=O)NC=1C=C2C=NN(C2=CC1)CCN1CCCC1 | C26H27N5O2
